US08258141B2
Step 3: {(1S,2R,3S,4R)-4-[2-(2-Amino-ethylcarbamoyl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-carbamic acid tert-butyl ester
A solution comprising 9-[(1R,2S,3R,4S)-4-(tert-butoxycarbonyl-propionyl-amino)-2,3-dihydroxy-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester (3.00 g, 4.66 mmol) in ethylenediamine (5 ml, 75 mmol) is heated at 90° C. for 1 hour. After cooling to room temperature, the ethylenediamine is removed in vacuo and purification by C-18 reverse phase column chromatography eluting with water (100%) followed by MeOH (100%) yields the title compound.

reactant | 9-[(1R,2S,3R,4S)-4-(tert-butoxycarbonyl-propionyl-amino)-2,3-dihydroxy-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | 4.66 mmol, 3.00 g | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N(C(CC)=O)C(=O)OC(C)(C)C)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H40N6O7
reactant | ethylenediamine | 75 mmol, 5 ml | C(CN)N | C2H8N2
product | {(1S,2R,3S,4R)-4-[2-(2-Amino-ethylcarbamoyl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCN)=O)O)O)=O | C32H40N8O5
